US05081123
d. 5-Ethoxalylamino-8-ethoxalylaminosulfonyl-1,2,3,4-tetrahydro-6-nitronaphthalene
Potassium nitrate (0.24 g, 2.3 mmol) was added to a solution of 5-ethoxalylamino-8-ethoxalylaminosulfonyl-1,2,3,4-tetrahydronaphthalene (1.0 g, 2.3 mmol) in 12 ml of conc. sulfuric acid with stirring at 0° C. Stirring was continued for 2 h at this temperature, and then the mixture was poured into 75 ml of ice-water. The separated product was isolated by suction and washed repeatedly with water to give 0.64 g (58%) of sufficiently pure title compound. M.p. 140°-142° C. (ethanol); 1H-NMR (DMSO-d6): 1.20 (t,J=7Hz, 3H, CH3), 1.30 (t,J=7Hz, 3H, CH3), 1.58-1.90 (m, 4H, 2CH2), 2.60-2.90 (m, 2H, CH2), 3.05-3.33 (m, 2H, CH2), 3.95-4.60 (m, 4H, 2CH2), 8.27 (s, 1H, ArH), 10.9 (broad s, 1H, NH, only one exchangeable proton could be seen).

reactant | Potassium nitrate | 2.3 mmol, 0.24 g | [N+](=O)([O-])[O-].[K+]
reactant | 5-ethoxalylamino-8-ethoxalylaminosulfonyl-1,2,3,4-tetrahydronaphthalene | 2.3 mmol, 1.0 g | C(=O)(C(=O)OCC)NC1=C2CCCCC2=C(C=C1)S(=O)(=O)NC(=O)C(=O)OCC | C18H22N2O8S
solvent | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Ethoxalylamino-8-ethoxalylaminosulfonyl-1,2,3,4-tetrahydro-6-nitronaphthalene | C(=O)(C(=O)OCC)NC1=C2CCCCC2=C(C=C1[N+](=O)[O-])S(=O)(=O)NC(=O)C(=O)OCC | C18H21N3O10S
